US07407946B2
Preparation of Compound 25 in Table 1—((2S)-1-(3-((4-((5-(2-((3,4-difluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2-yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)pyrrolidin-2-yl)methyl dihydrogen phosphate
Di(tert-butyl) ((2S)-1-(3-((4-((5-(2-((3,4-difluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2-yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)pyrrolidin-2-yl)methyl phosphate (537 mg, 0.69 mmol) in dioxane (10 ml) was treated with a solution of HCl (4N) in dioxane (1.2 ml) at ambient temperature for 15 hours. The solid was recovered by filtration, washed with dioxane, dried under vacuum at 50° C. to give the title compound (413 mg, 81% yield):

reactant | Di(tert-butyl) ((2S)-1-(3-((4-((5-(2-((3,4-difluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2-yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)pyrrolidin-2-yl)methyl phosphate | 0.69 mmol, 537 mg | P(=O)(OC(C)(C)C)(OC(C)(C)C)OC[C@H]1N(CCC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC=1SC(=CN1)CC(=O)NC1=CC(=C(C=C1)F)F)OC | C36H47F2N6O7PS
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.2 ml | O1CCOCC1 | C4H8O2
product | 1—((2S)-1-(3-((4-((5-(2-((3,4-difluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2-yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)pyrrolidin-2-yl)methyl dihydrogen phosphate | 413 mg, 81% yield | P(=O)(OC[C@H]1N(CCC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC=1SC(=CN1)CC(=O)NC1=CC(=C(C=C1)F)F)OC)(O)O | C28H31F2N6O7PS
